US05028728
11.8 g (0.1 mol) of methanesulfonyl chloride are added dropwise, at a reaction temperature of 0-5° C., to a solution of 16.8 g (0.05 mol) of bisphenol AF in 100 ml of pyridine. Stirring is then continued for a further hour at 5° C. and overnight at room temperature. The reaction mixture is then acidified with sufficient half-concentrated hydrochloric acid to precipitate the product. Filtering off with suction and washing with water gives 24 g of crude product, and recrystallization from toluene gives 20.2 g (82% yield) of 2,2-bis-(4-mesyloxyphenyl)-hexafluoropropane are isolated. M.p 136-138° C.

reactant | methanesulfonyl chloride | 0.1 mol, 11.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | bisphenol AF | 0.05 mol, 16.8 g | C1=CC(=CC=C1C(C2=CC=C(C=C2)O)(C(F)(F)F)C(F)(F)F)O | C15H10F6O2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-bis-(4-mesyloxyphenyl)-hexafluoropropane | 20.2 g, 82% yield | S(=O)(=O)(C)OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OS(=O)(=O)C | C17H14F6O6S2
